US06828317B2
N-{3-[3-Fluoro-4-(5-oxo-5,6-dihydro-4H-[1,3,4]thiadiazin-2-yl)-phenyl]-2-oxo-oxazolidin-5(S)-ylmethyl}-propionamide
1,3-Dicyclohexylcarbodiimide (0.153 g, 0.740 mmol) is added to a mixture of 2-[4-(5(S)-aminomethyl-2-oxo-oxazolidin-3-yl)-2-fluorophenyl]-4H-[1,3,4]thiadiazin-5-one (0.200 g, 0.617 mmol), N,N-diisopropylethylamine (0.161 ml, 0.927 mmol) and propionic acid (0.051 ml, 0.680 mmol) in DMF (3 ml). The mixture is stirred overnight at room temperature and then partially evaporated under vacuum. The residue is diluted with water (5 ml) and the resulting precipitate is filtered and dried under vacuum. Purification by PTLC (10% MeOH/DCM) gives pure product as a white solid (0.21 g, 90%); 1HNMR (300 MHz, DMSO-d6) δ 0.94 (t, J=7.7 Hz, 3H), 2.08 (q, J=7.7 Hz, 2H), 3.40-3.48 (m, 2H), 3.59 (s, 2H), 3.77 (dd, J=6.0, 9.1 Hz, 1H), 4.14 (t, J=9.1 Hz, 1H), 4.74-4.78 (m, 1H), 7.41 (dd, J=2.2, 8.8 Hz, 1H), 7.52 (dd, J=2.2, 14 Hz, 1H), 7.69 (t, J=8.5 Hz, 1H), 8.16 (t, J=5.8 Hz, 1H), 11.6 (s, 1H); mp 192-3; MS (m/z): [M+H]+=381.

reactant | 1,3-Dicyclohexylcarbodiimide | 0.740 mmol, 0.153 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 2-[4-(5(S)-aminomethyl-2-oxo-oxazolidin-3-yl)-2-fluorophenyl]-4H-[1,3,4]thiadiazin-5-one | 0.617 mmol, 0.200 g | NC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)C=1SCC(NN1)=O)F | C13H13FN4O3S
reactant | N,N-diisopropylethylamine | 0.927 mmol, 0.161 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | propionic acid | 0.680 mmol, 0.051 ml | C(CC)(=O)O | C3H6O2
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | N-{3-[3-Fluoro-4-(5-oxo-5,6-dihydro-4H-[1,3,4]thiadiazin-2-yl)-phenyl]-2-oxo-oxazolidin-5(S)-ylmethyl}-propionamide | 0.21 g, 90% | FC=1C=C(C=CC1C=1SCC(NN1)=O)N1C(O[C@H](C1)CNC(CC)=O)=O | C16H17FN4O4S
